US08614327B2
To a refluxing solution of N-(4-cyclohexyl-3-nitro-phenyl)acetamide (1.8 g, 6.86 mmol) and ammonium formate (1.8 g, 28.55 mmol) in ethanol (50 mL) was added 10% Pd/C (1.3 g, 12.22 mmol). The mixture was refluxed for additional 5 minutes, cooled and filtered through a pad of celite. The solvent was removed by evaporation to give N-(3-amino-4-cyclohexylphenyl)acetamide (1.4 g, 90%) which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.15 (d, J=2.1 Hz, 2H), 7.03 (d, J=8.3 Hz, 1H), 6.67 (dd, J=8.2, 2.1 Hz, 1H), 3.72 (d, J=9.8 Hz, 2H), 2.42 (d, J=8.5 Hz, 1H), 2.15 (s, 3H), 1.88 (d, J=9.5 Hz, 4H), 1.78 (d, J=12.1 Hz, 1H), 1.51-1.33 (m, 5H).

reactant | N-(4-cyclohexyl-3-nitro-phenyl)acetamide | 6.86 mmol, 1.8 g | C1(CCCCC1)C1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C14H18N2O3
reactant | ammonium formate | 28.55 mmol, 1.8 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 12.22 mmol, 1.3 g | [Pd] | Pd
product | N-(3-amino-4-cyclohexylphenyl)acetamide | 1.4 g, 90% | NC=1C=C(C=CC1C1CCCCC1)NC(C)=O | C14H20N2O
